US05736534
4-(6-Isopropyl-2,3-dihydro-indol-1-yl)-6,7-dimethoxy-quinazoline
Utilizing a procedure analogous to that described in Example 1, this product was prepared in 43% yield from 6-isopropyl-indoline (1.1 eq.), and 4-chloro-6,7-dimethoxy-quinazoline (1.0 eq) in i-PrOH. (M.P. 128°-129° C.; LC-MS: 350 (MH+); anal. RP18-HPLC RT: 5.51 min.).

reactant | 6-isopropyl-indoline | 1.1 eq. | C(C)(C)C1=CC=C2CCNC2=C1 | C11H15N
reactant | 4-chloro-6,7-dimethoxy-quinazoline | 1.0 eq | ClC1=NC=NC2=CC(=C(C=C12)OC)OC | C10H9ClN2O2
solvent | i-PrOH | CC(C)O | C3H8O
product | 4-(6-Isopropyl-2,3-dihydro-indol-1-yl)-6,7-dimethoxy-quinazoline | 43% yield | C(C)(C)C1=CC=C2CCN(C2=C1)C1=NC=NC2=CC(=C(C=C12)OC)OC | C21H23N3O2
